US04814332
8.0 g of 1-bromo-3,3-dimethyl-butan-2-one are added to 0.64 g of 1-[[p-(dimethylamino)-benzylidene]amino]-2-(phenylethyl)imidazole in 60 ml of acetonitrile. After stirring for 24 hours, the product is removed by filtration. There is obtained 3-[p-(dimethylamino)benzylidene[amino[-2-(phenylethyl)-1-(pivaloylmethyl)imidazolium bromide of melting point 231°.

reactant | 1-bromo-3,3-dimethyl-butan-2-one | 8.0 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | 1-[[p-(dimethylamino)-benzylidene]amino]-2-(phenylethyl)imidazole | 0.64 g | CN(C1=CC=C(C=NN2C(=NC=C2)CCC2=CC=CC=C2)C=C1)C | C20H22N4
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-(phenylethyl)-1-(pivaloylmethyl)imidazolium bromide | [Br-].C1(=CC=CC=C1)CCC1=[N+](C=CN1)CC(C(C)(C)C)=O | InChI=1S/C17H22N2O.BrH/c1-17(2,3)15(20)13-19-12-11-18-16(19)10-9-14-7-5-4-6-8-14;/h4-8,11-12H,9-10,13H2,1-3H3;1H
